US06255285B1
To a solution of 120 mg (0.480 mmol) of N-Me-Tyr(3-tBu)-NH2,156 mg (0.718 mmol) of Boc-Val-OH and 110 mg (0.718 mmol) of HOBT in 2 ml of DMF, 0.111 ml (0.718 mmol) of DIC was added under cooling with ice and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate and washed first with saturated aqueous NaHCO3, then with water, and finally with saturated brine. The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate:n-hexane=2:1) to give Boc-Val-N-Me-Tyr(3-tBu)-NH2 in the amount of 147 mg (68%).

reactant | N-Me-Tyr(3-tBu)-NH2 | 0.480 mmol, 120 mg | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C | C14H22N2O2
reactant | Boc-Val-OH | 0.718 mmol, 156 mg | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | HOBT | 0.718 mmol, 110 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIC | 0.718 mmol, 0.111 ml | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-Val-N-Me-Tyr(3-tBu)-NH2 | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C(=O)OC(C)(C)C | C24H39N3O5
